US07109212B2
1-(Quinolin-5-ylamino)-3-[1-(5-fluoro-2-hydroxyphenyl)cycloprop-1-yl]-2-(trifluoromethyl)propan-2-ol
Analogously to Example 38, 330 mg (0.76 mmol) of 1-(quinolin-5-ylamino)-3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-2-(trifluoromethyl)propan-2-ol is reacted with 3.80 ml (3.80 mmol) of a 1 M boron tribromide solution in 6.90 ml of dichloromethane. After 2 hours, the reaction is halted. The recrystallization from ethyl acetate and methanol yields 292 mg (91% of theory) of the product.

reactant | 1-(quinolin-5-ylamino)-3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-2-(trifluoromethyl)propan-2-ol | 0.76 mmol, 330 mg | N1=CC=CC2=C(C=CC=C12)NCC(CC1(CC1)C1=C(C=CC(=C1)F)OC)(O)C(F)(F)F | C23H22F4N2O2
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 6.90 ml | ClCCl | CH2Cl2
product | 1-(Quinolin-5-ylamino)-3-[1-(5-fluoro-2-hydroxyphenyl)cycloprop-1-yl]-2-(trifluoromethyl)propan-2-ol | N1=CC=CC2=C(C=CC=C12)NCC(CC1(CC1)C1=C(C=CC(=C1)F)O)(O)C(F)(F)F | C22H20F4N2O2
